US08729098B2
(8-Hydroxyquinolin-7-yl)(octahydroisoquinolin-2(1H)-yl)methanone
A solution of 8-hydroxyquinoline-7-carbonyl chloride of Preparation 2 (70 mg, 0.35 mmol) and decahydroisoquinoline (62.6 mg, 0.45 mmol) in THF (8 mL) and DIPEA (259 mg, 2.0 mmol) was stirred and heated at 50° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between DCM and H2O. The separated organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, DCM:MeOH 98:2) and then by preparative HPLC. Product-containing fractions were combined, made basic with a saturated aqueous solution of sodium hydrogen carbonate and CH3CN was removed under reduced pressure. The aqueous phase was extracted with DCM and the separated organics dried over Na2SO4, filtered and concentrated to dryness, affording the title compound (49 mg, 0.16 mmol) as a off-white solid.

reactant | 8-hydroxyquinoline-7-carbonyl chloride | OC=1C(=CC=C2C=CC=NC12)C(=O)Cl | C10H6ClNO2
reactant | decahydroisoquinoline | 0.45 mmol, 62.6 mg | C1NCCC2CCCCC12 | C9H17N
reactant | DIPEA | 2.0 mmol, 259 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (8-Hydroxyquinolin-7-yl)(octahydroisoquinolin-2(1H)-yl)methanone | 0.16 mmol, 49 mg | OC=1C(=CC=C2C=CC=NC12)C(=O)N1CC2CCCCC2CC1 | C19H22N2O2
